US05663175
Preparation of 9-{[1(R)-acetoxymethyl-2(S)-cyclohex-4-enyl]-methyl}2-amino-6-benzyloxypurine (XII)
To a suspension of 2-amino-6-benzyloxypurine (1 mmol) in DMF (2 mL) was added sodium hydride (1.15 eq) and the mixture stirred at room temperature for 30 minutes. A solution of 1(R)-acetoxymethyl-2(S)-bromomethylcyclohex-4-ene (1.1 eq) in DMF (0.75 mL) and the reaction stirred at 60° C. for 16 hours. The reaction was neutralized with acetic acid and concentrated. The desired compound was purified by silica gel chromatography (chloroform:methanol 95:5) as a colorless foam. 1HNMR (500 mHz, CDCl3): 8.02 ppm (s, 1H); 7.65 (s, 1H); 7.49 (d, 2H); 7.38-7.26 (m, 3H); 5.65 (dd, 2H); 5.56 (s, 2H); 4.33 (dd, 1H); 4.12 (dd, 1H); 4.06-3.97 (m, 2H); 2.40 (bs, 1H); 2.23-1.75 (m, 6H); 2.20 (s, 3H).

reactant | 2-amino-6-benzyloxypurine | 1 mmol | NC1=NC(=C2NC=NC2=N1)OCC1=CC=CC=C1 | C12H11N5O
reactant | sodium hydride | 1.15 eq | [H-].[Na+]
reactant | 1(R)-acetoxymethyl-2(S)-bromomethylcyclohex-4-ene | 1.1 eq | C(C)(=O)OC[C@H]1[C@H](CC=CC1)CBr | C10H15BrO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
product | 9-{[1(R)-acetoxymethyl-2(S)-cyclohex-4-enyl]-methyl}2-amino-6-benzyloxypurine | C(C)(=O)OC[C@H]1[C@H](CC=CC1)CN1C2=NC(=NC(=C2N=C1)OCC1=CC=CC=C1)N | C22H25N5O3
